US07265131B2
To a solution of trifluoromethanesulfonic acid 2-(2,4-dimethylbenzyl)-1-oxo-1,2-dihydro-isoquinolin-3-yl ester (50 mg, 0.12 mmol) in THF (1.5 mL) was added Et3N (83 μL, 0.59 mmol). The resulting mixture was then degassed by bubbling argon through the solution for twenty minutes. The degassed solution was then treated with 2-methyl-but-3-yn-2-ol (23 μL, 0.24 mmol) followed by tetrakistriphenylphosphine Pd(0) (13 mg, 12 μmol) and Cul (˜2 mg, ˜12 μmol). The resulting suspension was stirred at ambient temperature for 16 hours, then filtered through a short plug of silica gel eluting with ethyl acetate. The filtrate was concentrated under reduced pressure to afford the crude product. The crude product was purified by silica gel column chromatography eluting with a gradient from 0% to 50% ethyl acetate/hexane on a silica column. The product peak was collected to afford 2-(2,4-dimethylbenzyl)-3-(3-hydroxy-3-methylbut-1-ynyl)-2H-isoquinolin-1-one (27 mg, 65% yield) as a white solid. 1H-NMR (400 MHz, CDCl3): δ 8.43 (1H, d, J=8.1 Hz), 7.70-7.64 (1H, m), 7.75-7.49 (2H, m), 7.0 (1H, s), 6.89-6.85 (2H, m), 6.65-6.61 (1H, m), 5.42 (2H, s), 2.40 (3H, s), 2.26 (3H, s), 1.40 (6H, s). ppm.

reactant | trifluoromethanesulfonic acid 2-(2,4-dimethylbenzyl)-1-oxo-1,2-dihydro-isoquinolin-3-yl ester | 0.12 mmol, 50 mg | CC1=C(CN2C(C3=CC=CC=C3C=C2OS(=O)(=O)C(F)(F)F)=O)C=CC(=C1)C | C19H16F3NO4S
reactant | Et3N | 0.59 mmol, 83 μL | CCN(CC)CC | C6H15N
reactant | 2-methyl-but-3-yn-2-ol | 0.24 mmol, 23 μL | CC(C)(C#C)O | C5H8O
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
catalyst | tetrakistriphenylphosphine Pd(0) | 12 μmol, 13 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(2,4-dimethylbenzyl)-3-(3-hydroxy-3-methylbut-1-ynyl)-2H-isoquinolin-1-one | 27 mg, 65% yield | CC1=C(CN2C(C3=CC=CC=C3C=C2C#CC(C)(C)O)=O)C=CC(=C1)C | C23H23NO2
